US05900327
Synthesis of 9,9-bis(3,6-dioxaheptyl)-fluorene:
7.05 g of butyllithium dissolved in 44 ml of hexane was slowly added in 5 minutes into 18.28 g of fluorene dissolved in 150 ml of anhydrous tetrahydrofuran at -50° C. under nitrogen protection. The mixture was stirred at -30~15° C. for 1 hour before it was cooled again to -40~-50° C. Then, 15.23 g of 1-chloro-2-(2-methoxyethoxy)-ethane was added in 5 minutes. The mixture was subsequently stirred for 2 hours while the temperature was gradually increased to 22° C. The main product in the solution was 9-(3,6-dioxaheptyl)-fluorene as detected by GC-MS. This solution was then cooled to -50° C., and 7.1 g of butyllithium dissolved in 44 ml of hexane was slowly added in 5 minutes under nitrogen protection. The mixture was stirred at -30 to -15° C. for 1 hour before it was cooled again to 40 to -50° C. Then, 15.30 g of 1-chloro-2-(2-methoxyethoxy)-ethane was added during 5 minutes. The mixture was subsequently stirred for 5 hours at 22° C., dispersed in water, and extracted with ether. The etheral solution was washed with water and brine, dried with magnesium sulfate, and evaporated. The residue was distilled to collect 37.1 g (91%) of colorless liquid at 160° C./0.08 mm Hg. MS (m/z): 370 (M+), 219, 191, 178, 89, 59.

reactant | butyllithium | 7.05 g | C(CCC)[Li]
reactant | fluorene | 18.28 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 1-chloro-2-(2-methoxyethoxy)-ethane | 15.23 g | ClCCOCCOC | C5H11ClO2
reactant | 9-(3,6-dioxaheptyl)-fluorene | C(COCCOC)C1C2=CC=CC=C2C=2C=CC=CC12 | C18H20O2
reactant | butyllithium | 7.1 g | C(CCC)[Li]
reactant | 1-chloro-2-(2-methoxyethoxy)-ethane | 15.30 g | ClCCOCCOC | C5H11ClO2
solvent | hexane | 44 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | 44 ml | CCCCCC | C6H14
solvent | water | O | H2O
product | 9,9-bis(3,6-dioxaheptyl)-fluorene | C(COCCOC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCOCCOC | C23H30O4
